US07723336B2
To a 16×100 mm tube was added benzenesulfonamide (58 mg, 0.37 mmol), tris(dibenzylideneacetone)dipalladium (0) (2 mg, 0.0022 mmol), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (4 mg 0.0077 mmol) and cesium carbonate (240 mg, 1.25 mmol). The tube was evacuated and back filled with nitrogen. 8-Bromo-6-chloroimidazo[1,2-b]pyridazine (120 mg, 0.447 mmol) from Example I(1), step 1b and 1,4-dioxane (1.0 ml) was then added. The mixture was allowed to heat at 100° C. for 16 hours. The solution was then diluted with dichloromethane, filtered and concentrated in vacuo to afford crude N-(6-chloroimidazo[1,2-b]pyridazin-8-yl)benzenesulfonamide 100 mg (73%).

reactant | benzenesulfonamide | 0.37 mmol, 58 mg | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
reactant | cesium carbonate | 1.25 mmol, 240 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 8-Bromo-6-chloroimidazo[1,2-b]pyridazine | 0.447 mmol, 120 mg | BrC=1C=2N(N=C(C1)Cl)C=CN2 | C6H3BrClN3
reactant | 1,4-dioxane | 1.0 ml | O1CCOCC1 | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.0022 mmol, 2 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 0.0077 mmol, 4 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
product | N-(6-chloroimidazo[1,2-b]pyridazin-8-yl)benzenesulfonamide | 100 mg, 73% | ClC=1C=C(C=2N(N1)C=CN2)NS(=O)(=O)C2=CC=CC=C2 | C12H9ClN4O2S
